US08633183B2
A-5) 6-Ethyl-5-iodo-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP1 starting from 10.0 g (83 mmol) 6-ethyl-pyridin-2-ylamine and 18.4 g (83 mmol) NIS. Yield after precipitation from the reaction mixture: 18.0 g (89%).

reactant | 6-ethyl-pyridin-2-ylamine | 83 mmol, 10.0 g | C(C)C1=CC=CC(=N1)N | C7H10N2
reactant | NIS | 83 mmol, 18.4 g | C1CC(=O)N(C1=O)I | C4H4INO2
product | 6-Ethyl-5-iodo-pyridin-2-ylamine | C(C)C1=C(C=CC(=N1)N)I | C7H9IN2
